US07358376B2
b) 2-Amino-4-trifluoromethyl-5-phenyl-3-thiophenecarboxamide
A mixture of 2-amino-4-trifluoromethyl-5-phenyl-3-thiophenenitrile (0.12 g) and concentrated sulphuric acid (1.5 ml) was stirred and heated at 50° C. for 8 h. The reaction mixture was added to saturated aqueous sodium bicarbonate until a pH of 7 was obtained. The product was extracted into ethyl acetate (100 ml) and the organic layer was dried with anhydrous sodium sulfate (3 g), filtered and concentrated. The residue was chromatographed on silica gel eluting with ethyl acetate/isohexane mixtures. The solvent was removed and the product collected (0.07 g).

reactant | 2-amino-4-trifluoromethyl-5-phenyl-3-thiophenenitrile | 0.12 g | NC=1SC(=C(C1C#N)C(F)(F)F)C1=CC=CC=C1 | C12H7F3N2S
reactant | sulphuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-Amino-4-trifluoromethyl-5-phenyl-3-thiophenecarboxamide | NC=1SC(=C(C1C(=O)N)C(F)(F)F)C1=CC=CC=C1 | C12H9F3N2OS
